US08227615B2
Step a: (6-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-3-yl)(2-methoxyphenyl)methyl methanesulfonate
Methanesulfonyl chloride (56 μl, 0.72 mmol) was added slowly to the mixture of 1-benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid {5-[hydroxy-(2-methoxy-phenyl)-methyl]-pyridin-2-yl}-amide (50 mg, 0.12 mmol) and DIEA (24 μl, 0.14 mmol) in dichloromethane (2 ml) at 0° C. The reaction mixture was stirred at ambient temperature for 3 h. Solvents were evaporated and the residue was used for the next step without any additional purification.

reactant | Methanesulfonyl chloride | 0.72 mmol, 56 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid {5-[hydroxy-(2-methoxy-phenyl)-methyl]-pyridin-2-yl}-amide | 0.12 mmol, 50 mg | OC(C=1C=CC(=NC1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C1=C(C=CC=C1)OC | C24H22N2O5
reactant | DIEA | 0.14 mmol, 24 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (6-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-3-yl)(2-methoxyphenyl)methyl methanesulfonate | CS(=O)(=O)OC(C1=C(C=CC=C1)OC)C=1C=NC(=CC1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C25H24N2O7S
